**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 SMT Power Inductor
* Matchcode:             WE-MAPI
* Library Type:          LTspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/10/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 2512_744383240047_0.47u 1 2
Rp 1 2 1038.4604951
Cp 1 2 2.9596p
Rs 1 N3 0.03
L1 N3 2 0.39u
.ends 2512_744383240047_0.47u
*******
.subckt 2512_744383240056_0.56u 1 2
Rp 1 2 1377.704037902
Cp 1 2 3.265353363p
Rs 1 N3 0.037
L1 N3 2 0.53u
.ends 2512_744383240056_0.56u
*******
.subckt 2512_744383240068_0.68u 1 2
Rp 1 2 1711.275912736
Cp 1 2 3.4284831524p
Rs 1 N3 0.045
L1 N3 2 0.66u
.ends 2512_744383240068_0.68u
*******
.subckt 2512_74438324010_1u 1 2
Rp 1 2 2168.089901022
Cp 1 2 3.75836481733333p
Rs 1 N3 0.049
L1 N3 2 0.93u
.ends 2512_74438324010_1u
*******
.subckt 2512_74438324012_1.2u 1 2
Rp 1 2 2597.705977778
Cp 1 2 3.9005958574p
Rs 1 N3 0.067
L1 N3 2 1.07u
.ends 2512_74438324012_1.2u
*******
.subckt 2512_74438324015_1.5u 1 2
Rp 1 2 3445.783694548
Cp 1 2 4.425720698p
Rs 1 N3 0.082
L1 N3 2 1.54u
.ends 2512_74438324015_1.5u
*******
.subckt 2512_74438324022_2.2u 1 2
Rp 1 2 4211.982563034
Cp 1 2 4.0585787336p
Rs 1 N3 0.123
L1 N3 2 1.87u
.ends 2512_74438324022_2.2u
*******
.subckt 2512_74438324033_3.3u 1 2
Rp 1 2 7042.196136376
Cp 1 2 4.3926298308p
Rs 1 N3 0.226
L1 N3 2 3.25u
.ends 2512_74438324033_3.3u
*******
.subckt 2512_74438324047_4.7u 1 2
Rp 1 2 9138.238352662
Cp 1 2 4.3223636442p
Rs 1 N3 0.3
L1 N3 2 4.48u
.ends 2512_74438324047_4.7u
*******
.subckt 2512_74438324056_5.6u 1 2
Rp 1 2 10933.60876782
Cp 1 2 5.1948829364p
Rs 1 N3 0.405
L1 N3 2 5.69u
.ends 2512_74438324056_5.6u
*******
.subckt 2512_74438324068_6.8u 1 2
Rp 1 2 12309.69262034
Cp 1 2 4.9992358046p
Rs 1 N3 0.56
L1 N3 2 6.69u
.ends 2512_74438324068_6.8u
*******
.subckt 2512_74438324082_8.2u 1 2
Rp 1 2 14021.69415194
Cp 1 2 5.0174407148p
Rs 1 N3 0.63
L1 N3 2 7.88u
.ends 2512_74438324082_8.2u
*******
.subckt 1610_744383130033_0.33u 1 2
Rp 1 2 1175.839
Cp 1 2 1.6355p
Rs 1 N3 0.065
L1 N3 2 0.346u
.ends 1610_744383130033_0.33u
*******
.subckt 1610_744383130047_0.47u 1 2
Rp 1 2 1548.746
Cp 1 2 1.657p
Rs 1 N3 0.077
L1 N3 2 0.52u
.ends 1610_744383130047_0.47u
*******
.subckt 1610_744383130056_0.56u 1 2
Rp 1 2 1864.888
Cp 1 2 1.8707p
Rs 1 N3 0.09
L1 N3 2 0.58u
.ends 1610_744383130056_0.56u
*******
.subckt 1610_744383130068_0.68u 1 2
Rp 1 2 2230.246
Cp 1 2 1.9747p
Rs 1 N3 0.101
L1 N3 2 0.74u
.ends 1610_744383130068_0.68u
*******
.subckt 1610_744383130082_0.82u 1 2
Rp 1 2 2577.813
Cp 1 2 2.153p
Rs 1 N3 0.115
L1 N3 2 0.9u
.ends 1610_744383130082_0.82u
*******
.subckt 1610_74438313010_1u 1 2
Rp 1 2 3023.53
Cp 1 2 2.1174p
Rs 1 N3 0.127
L1 N3 2 0.99u
.ends 1610_74438313010_1u
*******
.subckt 1610_74438313012_1.2u 1 2
Rp 1 2 3481.561
Cp 1 2 2.0866p
Rs 1 N3 0.14
L1 N3 2 1.18u
.ends 1610_74438313012_1.2u
*******
.subckt 1610_74438313015_1.5u 1 2
Rp 1 2 4017.414
Cp 1 2 2.5328p
Rs 1 N3 0.189
L1 N3 2 1.46u
.ends 1610_74438313015_1.5u
*******
.subckt 1610_74438313022_2.2u 1 2
Rp 1 2 5651.21
Cp 1 2 2.5307p
Rs 1 N3 0.337
L1 N3 2 2.27u
.ends 1610_74438313022_2.2u
*******
.subckt 2010_744383430033_0.33u 1 2
Rp 1 2 1106.761952154
Cp 1 2 1.8829p
Rs 1 N3 0.04
L1 N3 2 0.32u
.ends 2010_744383430033_0.33u
*******
.subckt 2010_744383430047_0.47u 1 2
Rp 1 2 1457.590564128
Cp 1 2 1.9781p
Rs 1 N3 0.049
L1 N3 2 0.44u
.ends 2010_744383430047_0.47u
*******
.subckt 2010_744383430056_0.56u 1 2
Rp 1 2 2075.350512116
Cp 1 2 2.2551p
Rs 1 N3 0.056
L1 N3 2 0.5u
.ends 2010_744383430056_0.56u
*******
.subckt 2010_744383430068_0.68u 1 2
Rp 1 2 2110.665367845
Cp 1 2 2.1367p
Rs 1 N3 0.065
L1 N3 2 0.65u
.ends 2010_744383430068_0.68u
*******
.subckt 2010_744383430082_0.82u 1 2
Rp 1 2 2321.539322436
Cp 1 2 2.3941p
Rs 1 N3 0.071
L1 N3 2 0.76u
.ends 2010_744383430082_0.82u
*******
.subckt 2010_74438343010_1u 1 2
Rp 1 2 3024.486229762
Cp 1 2 2.6486p
Rs 1 N3 0.086
L1 N3 2 0.99u
.ends 2010_74438343010_1u
*******
.subckt 2010_74438343012_1.2u 1 2
Rp 1 2 3525.586090584
Cp 1 2 2.6299p
Rs 1 N3 0.114
L1 N3 2 1.07u
.ends 2010_74438343012_1.2u
*******
.subckt 2010_74438343015_1.5u 1 2
Rp 1 2 4272.400063088
Cp 1 2 2.4725p
Rs 1 N3 0.15
L1 N3 2 1.43u
.ends 2010_74438343015_1.5u
*******
.subckt 2010_74438343022_2.2u 1 2
Rp 1 2 5817.620850408
Cp 1 2 2.7082p
Rs 1 N3 0.225
L1 N3 2 1.92u
.ends 2010_74438343022_2.2u
*******
.subckt 2506_744383210047_0.47u 1 2
Rp 1 2 1358.795
Cp 1 2 2.2013p
Rs 1 N3 0.076
L1 N3 2 0.49u
.ends 2506_744383210047_0.47u
*******
.subckt 2506_74438321010_1u 1 2
Rp 1 2 2580.266667
Cp 1 2 2.8938p
Rs 1 N3 0.163
L1 N3 2 1.09u
.ends 2506_74438321010_1u
*******
.subckt 2508_744383220047_0.47u 1 2
Rp 1 2 1328.67
Cp 1 2 2.363p
Rs 1 N3 0.07
L1 N3 2 0.48u
.ends 2508_744383220047_0.47u
*******
.subckt 2508_74438322010_1u 1 2
Rp 1 2 2287
Cp 1 2 2.785p
Rs 1 N3 0.107
L1 N3 2 0.93u
.ends 2508_74438322010_1u
*******
.subckt 2508_74438322022_2.2u 1 2
Rp 1 2 5454.6
Cp 1 2 3.2106p
Rs 1 N3 0.252
L1 N3 2 2.4u
.ends 2508_74438322022_2.2u
*******
.subckt 2510_744383230033_0.33u 1 2
Rp 1 2 759.73
Cp 1 2 2.7883p
Rs 1 N3 0.029
L1 N3 2 0.28u
.ends 2510_744383230033_0.33u
*******
.subckt 2510_744383230047_0.47u 1 2
Rp 1 2 807.55
Cp 1 2 2.235p
Rs 1 N3 0.037
L1 N3 2 0.44u
.ends 2510_744383230047_0.47u
*******
.subckt 2510_744383230068_0.68u 1 2
Rp 1 2 1052.9
Cp 1 2 2.5757p
Rs 1 N3 0.046
L1 N3 2 0.62u
.ends 2510_744383230068_0.68u
*******
.subckt 2510_744383230082_0.82u 1 2
Rp 1 2 1712.77
Cp 1 2 3.1837p
Rs 1 N3 0.053
L1 N3 2 0.77u
.ends 2510_744383230082_0.82u
*******
.subckt 2510_74438323010_1u 1 2
Rp 1 2 2155.33
Cp 1 2 3.992p
Rs 1 N3 0.063
L1 N3 2 1.01u
.ends 2510_74438323010_1u
*******
.subckt 2510_74438323012_1.2u 1 2
Rp 1 2 2888.67
Cp 1 2 3.3837p
Rs 1 N3 0.082
L1 N3 2 1.2u
.ends 2510_74438323012_1.2u
*******
.subckt 2510_74438323015_1.5u 1 2
Rp 1 2 3356.67
Cp 1 2 3.701p
Rs 1 N3 0.092
L1 N3 2 1.41u
.ends 2510_74438323015_1.5u
*******
.subckt 2510_74438323022_2.2u 1 2
Rp 1 2 2863
Cp 1 2 2.6337p
Rs 1 N3 0.147
L1 N3 2 2.3u
.ends 2510_74438323022_2.2u
*******
.subckt 2510_74438323033_3.3u 1 2
Rp 1 2 5818.67
Cp 1 2 3.66p
Rs 1 N3 0.22
L1 N3 2 3.01u
.ends 2510_74438323033_3.3u
*******
.subckt 2510_74438323047_4.7u 1 2
Rp 1 2 8723.67
Cp 1 2 4.5563p
Rs 1 N3 0.338
L1 N3 2 4.61u
.ends 2510_74438323047_4.7u
*******
.subckt 2510_74438323068_6.8u 1 2
Rp 1 2 12938.33
Cp 1 2 3.9087p
Rs 1 N3 0.563
L1 N3 2 6.51u
.ends 2510_74438323068_6.8u
*******
.subckt 2510_74438323082_8.2u 1 2
Rp 1 2 14641.63
Cp 1 2 4.4293p
Rs 1 N3 0.646
L1 N3 2 8.12u
.ends 2510_74438323082_8.2u
*******
.subckt 2510_74438323100_10u 1 2
Rp 1 2 17001.67
Cp 1 2 4.3877p
Rs 1 N3 0.733
L1 N3 2 9.66u
.ends 2510_74438323100_10u
*******
.subckt 2512_74438324100_10u 1 2
Rp 1 2 13964.0031297
Cp 1 2 4.94140041425p
Rs 1 N3 0.68
L1 N3 2 8.13u
.ends 2512_74438324100_10u
*******
.subckt 3010_74438333022_2.2u 1 2
Rp 1 2 5803.666667
Cp 1 2 4.724p
Rs 1 N3 0.15
L1 N3 2 2.1u
.ends 3010_74438333022_2.2u
*******
.subckt 3010_74438333033_3.3u 1 2
Rp 1 2 8309.333333
Cp 1 2 5.34966666666667p
Rs 1 N3 0.232
L1 N3 2 3.09u
.ends 3010_74438333033_3.3u
*******
.subckt 3010_74438333047_4.7u 1 2
Rp 1 2 8564.333333
Cp 1 2 5.27933333333333p
Rs 1 N3 0.356
L1 N3 2 4.45u
.ends 3010_74438333047_4.7u
*******
.subckt 3012_744383340033_0.33u 1 2
Rp 1 2 821.2233333
Cp 1 2 4.27333333333333p
Rs 1 N3 0.019
L1 N3 2 0.29u
.ends 3012_744383340033_0.33u
*******
.subckt 3012_744383340047_0.47u 1 2
Rp 1 2 1173.333333
Cp 1 2 4.55666666666667p
Rs 1 N3 0.022
L1 N3 2 0.4u
.ends 3012_744383340047_0.47u
*******
.subckt 3012_744383340056_0.56u 1 2
Rp 1 2 1565
Cp 1 2 3.79066666666667p
Rs 1 N3 0.029
L1 N3 2 0.57u
.ends 3012_744383340056_0.56u
*******
.subckt 3012_744383340068_0.68u 1 2
Rp 1 2 1736.666667
Cp 1 2 3.80966666666667p
Rs 1 N3 0.036
L1 N3 2 0.65u
.ends 3012_744383340068_0.68u
*******
.subckt 3012_74438334010_1u 1 2
Rp 1 2 2542.333333
Cp 1 2 4.17533333333333p
Rs 1 N3 0.0421
L1 N3 2 1.08u
.ends 3012_74438334010_1u
*******
.subckt 3012_74438334012_1.2u 1 2
Rp 1 2 3020.5
Cp 1 2 4.95453333333333p
Rs 1 N3 0.055
L1 N3 2 1.22u
.ends 3012_74438334012_1.2u
*******
.subckt 3012_74438334015_1.5u 1 2
Rp 1 2 3865
Cp 1 2 4.74866666666667p
Rs 1 N3 0.08
L1 N3 2 1.5u
.ends 3012_74438334015_1.5u
*******
.subckt 3012_74438334022_2.2u 1 2
Rp 1 2 4887.666667
Cp 1 2 5.10166666666667p
Rs 1 N3 0.1
L1 N3 2 2.04u
.ends 3012_74438334022_2.2u
*******
.subckt 3012_74438334033_3.3u 1 2
Rp 1 2 7481
Cp 1 2 6.07033333333333p
Rs 1 N3 0.1563
L1 N3 2 3.26u
.ends 3012_74438334033_3.3u
*******
.subckt 3012_74438334047_4.7u 1 2
Rp 1 2 9053.666667
Cp 1 2 5.97833333333333p
Rs 1 N3 0.2677
L1 N3 2 4.38u
.ends 3012_74438334047_4.7u
*******
.subckt 3012_74438334056_5.6u 1 2
Rp 1 2 10141
Cp 1 2 5.743p
Rs 1 N3 0.3383
L1 N3 2 5.5u
.ends 3012_74438334056_5.6u
*******
.subckt 3012_74438334068_6.8u 1 2
Rp 1 2 11556.33333
Cp 1 2 6.09933333333333p
Rs 1 N3 0.3682
L1 N3 2 5.99u
.ends 3012_74438334068_6.8u
*******
.subckt 3015_744383350047_0.47u 1 2
Rp 1 2 1058.19523333333
Cp 1 2 4.85417386666667p
Rs 1 N3 0.02
L1 N3 2 0.45u
.ends 3015_744383350047_0.47u
*******
.subckt 3015_744383350068_0.68u 1 2
Rp 1 2 1639.15646368427
Cp 1 2 4.395p
Rs 1 N3 0.025
L1 N3 2 0.51u
.ends 3015_744383350068_0.68u
*******
.subckt 3015_744383350082_0.82u 1 2
Rp 1 2 2232.88336666667
Cp 1 2 4.5684805p
Rs 1 N3 0.03
L1 N3 2 0.75u
.ends 3015_744383350082_0.82u
*******
.subckt 3015_74438335010_1u 1 2
Rp 1 2 2039.333333
Cp 1 2 4.95603333333333p
Rs 1 N3 0.039
L1 N3 2 1.02u
.ends 3015_74438335010_1u
*******
.subckt 3015_74438335022_2.2u 1 2
Rp 1 2 4443
Cp 1 2 5.69266666666667p
Rs 1 N3 0.094
L1 N3 2 1.98u
.ends 3015_74438335022_2.2u
*******
.subckt 3015_74438335033_3.3u 1 2
Rp 1 2 6061
Cp 1 2 6.48433333333333p
Rs 1 N3 0.114
L1 N3 2 3.13u
.ends 3015_74438335033_3.3u
*******
.subckt 3015_74438335047_4.7u 1 2
Rp 1 2 8005.666667
Cp 1 2 6.65533333333333p
Rs 1 N3 0.141
L1 N3 2 4.26u
.ends 3015_74438335047_4.7u
*******
.subckt 3015_74438335068_6.8u 1 2
Rp 1 2 10791.66667
Cp 1 2 7.02333333333333p
Rs 1 N3 0.25
L1 N3 2 6.25u
.ends 3015_74438335068_6.8u
*******
.subckt 3015_74438335100_10u 1 2
Rp 1 2 15109.66667
Cp 1 2 6.18366666666667p
Rs 1 N3 0.446
L1 N3 2 9.46u
.ends 3015_74438335100_10u
*******
.subckt 3015_74438335150_15u 1 2
Rp 1 2 21284.66667
Cp 1 2 5.87033333333333p
Rs 1 N3 0.72
L1 N3 2 14.1u
.ends 3015_74438335150_15u
*******
.subckt 3015_74438335220_22u 1 2
Rp 1 2 29029
Cp 1 2 6.34333333333333p
Rs 1 N3 0.94
L1 N3 2 19.78u
.ends 3015_74438335220_22u
*******
.subckt 3015_74438335330_33u 1 2
Rp 1 2 33248.33333
Cp 1 2 6.99333333333333p
Rs 1 N3 1.21
L1 N3 2 29.66u
.ends 3015_74438335330_33u
*******
.subckt 3015_74438335470_47u 1 2
Rp 1 2 42066.66667
Cp 1 2 7.59833333333333p
Rs 1 N3 2.09
L1 N3 2 46.1u
.ends 3015_74438335470_47u
*******
.subckt 3020_744383360033_0.33u 1 2
Rp 1 2 725.017800117
Cp 1 2 4.2139562698p
Rs 1 N3 0.014
L1 N3 2 0.31u
.ends 3020_744383360033_0.33u
*******
.subckt 3020_744383360047_0.47u 1 2
Rp 1 2 1054.617100708
Cp 1 2 5.3828993388p
Rs 1 N3 0.018
L1 N3 2 0.46u
.ends 3020_744383360047_0.47u
*******
.subckt 3020_744383360068_0.68u 1 2
Rp 1 2 1402.486795318
Cp 1 2 5.6011470144p
Rs 1 N3 0.022
L1 N3 2 0.65u
.ends 3020_744383360068_0.68u
*******
.subckt 3020_74438336010_1u 1 2
Rp 1 2 1905.123596372
Cp 1 2 5.8797906294p
Rs 1 N3 0.026
L1 N3 2 0.95u
.ends 3020_74438336010_1u
*******
.subckt 3020_74438336012_1.2u 1 2
Rp 1 2 2327.00997736
Cp 1 2 6.4008161236p
Rs 1 N3 0.03
L1 N3 2 1.18u
.ends 3020_74438336012_1.2u
*******
.subckt 3020_74438336015_1.5u 1 2
Rp 1 2 2879.288208634
Cp 1 2 6.5500806518p
Rs 1 N3 0.033
L1 N3 2 1.46u
.ends 3020_74438336015_1.5u
*******
.subckt 3020_74438336022_2.2u 1 2
Rp 1 2 4907.58956685
Cp 1 2 6.44236118p
Rs 1 N3 0.067
L1 N3 2 2.22u
.ends 3020_74438336022_2.2u
*******
.subckt 3020_74438336033_3.3u 1 2
Rp 1 2 6097.32637741
Cp 1 2 5.7471916388p
Rs 1 N3 0.099
L1 N3 2 2.92u
.ends 3020_74438336033_3.3u
*******
.subckt 3020_74438336047_4.7u 1 2
Rp 1 2 8959.521080854
Cp 1 2 6.4455729074p
Rs 1 N3 0.137
L1 N3 2 4.52u
.ends 3020_74438336047_4.7u
*******
.subckt 3020_74438336068_6.8u 1 2
Rp 1 2 9175.279119816
Cp 1 2 8.1999260564p
Rs 1 N3 0.168
L1 N3 2 6.23u
.ends 3020_74438336068_6.8u
*******
.subckt 3020_74438336100_10u 1 2
Rp 1 2 14215.45725152
Cp 1 2 8.016436544p
Rs 1 N3 0.28
L1 N3 2 9.07u
.ends 3020_74438336100_10u
*******
.subckt 4020_744383560033_0.33u 1 2
Rp 1 2 710.000896513
Cp 1 2 5.6590796296p
Rs 1 N3 0.006
L1 N3 2 0.32u
.ends 4020_744383560033_0.33u
*******
.subckt 4020_744383560033HT_0.33u 1 2
Rp 1 2 713.426
Cp 1 2 7.731p
Rs 1 N3 0.0065
L1 N3 2 0.376u
.ends 4020_744383560033HT_0.33u
*******
.subckt 4020_744383560047HT_0.47u 1 2
Rp 1 2 970.242
Cp 1 2 8.284p
Rs 1 N3 0.007
L1 N3 2 0.485199u
.ends 4020_744383560047HT_0.47u
*******
.subckt 4020_744383560056_0.56u 1 2
Rp 1 2 1083.906744055
Cp 1 2 6.9156720806p
Rs 1 N3 0.007
L1 N3 2 0.49u
.ends 4020_744383560056_0.56u
*******
.subckt 4020_744383560056HT_0.56u 1 2
Rp 1 2 1279
Cp 1 2 8.414p
Rs 1 N3 0.0075
L1 N3 2 0.603265u
.ends 4020_744383560056HT_0.56u
*******
.subckt 4020_744383560068_0.68u 1 2
Rp 1 2 1345.97001505
Cp 1 2 7.1451286218p
Rs 1 N3 0.0075
L1 N3 2 0.63u
.ends 4020_744383560068_0.68u
*******
.subckt 4020_744383560068HT_0.68u 1 2
Rp 1 2 1382
Cp 1 2 9.284p
Rs 1 N3 0.008
L1 N3 2 0.637919u
.ends 4020_744383560068HT_0.68u
*******
.subckt 4020_74438356010_1u 1 2
Rp 1 2 2216.19840284
Cp 1 2 8.1165817714p
Rs 1 N3 0.012
L1 N3 2 1.01u
.ends 4020_74438356010_1u
*******
.subckt 4020_74438356010HT_1u 1 2
Rp 1 2 2276
Cp 1 2 10.825p
Rs 1 N3 0.0135
L1 N3 2 1.168u
.ends 4020_74438356010HT_1u
*******
.subckt 4020_74438356012_1.2u 1 2
Rp 1 2 2461.7312777325
Cp 1 2 7.5883816538p
Rs 1 N3 0.015
L1 N3 2 1.15u
.ends 4020_74438356012_1.2u
*******
.subckt 4020_74438356012HT_1.2u 1 2
Rp 1 2 2454
Cp 1 2 10.374p
Rs 1 N3 0.016
L1 N3 2 1.325u
.ends 4020_74438356012HT_1.2u
*******
.subckt 4020_74438356015_1.5u 1 2
Rp 1 2 2825.87134609
Cp 1 2 8.1385586862p
Rs 1 N3 0.016
L1 N3 2 1.38u
.ends 4020_74438356015_1.5u
*******
.subckt 4020_74438356015HT_1.5u 1 2
Rp 1 2 2780
Cp 1 2 10.604p
Rs 1 N3 0.018
L1 N3 2 1.55u
.ends 4020_74438356015HT_1.5u
*******
.subckt 4020_74438356018_1.8u 1 2
Rp 1 2 3380.914848105
Cp 1 2 9.0484679884p
Rs 1 N3 0.0245
L1 N3 2 1.79u
.ends 4020_74438356018_1.8u
*******
.subckt 4020_74438356018HT_1.8u 1 2
Rp 1 2 3724
Cp 1 2 9.572p
Rs 1 N3 0.026
L1 N3 2 1.961u
.ends 4020_74438356018HT_1.8u
*******
.subckt 4020_74438356022_2.2u 1 2
Rp 1 2 4123.86235634
Cp 1 2 9.7152950084p
Rs 1 N3 0.029
L1 N3 2 2.18u
.ends 4020_74438356022_2.2u
*******
.subckt 4020_74438356022HT_2.2u 1 2
Rp 1 2 4107
Cp 1 2 12.2p
Rs 1 N3 0.028
L1 N3 2 2.328u
.ends 4020_74438356022HT_2.2u
*******
.subckt 4020_74438356033_3.3u 1 2
Rp 1 2 5467.852811445
Cp 1 2 12.3361832892p
Rs 1 N3 0.0399
L1 N3 2 3.18u
.ends 4020_74438356033_3.3u
*******
.subckt 4020_74438356033HT_3.3u 1 2
Rp 1 2 6048
Cp 1 2 12.082p
Rs 1 N3 0.045
L1 N3 2 3.55u
.ends 4020_74438356033HT_3.3u
*******
.subckt 4020_74438356047_4.7u 1 2
Rp 1 2 7737.2732555125
Cp 1 2 11.1535766864p
Rs 1 N3 0.063
L1 N3 2 4.67u
.ends 4020_74438356047_4.7u
*******
.subckt 4020_74438356047HT_4.7u 1 2
Rp 1 2 7131
Cp 1 2 14.902p
Rs 1 N3 0.065
L1 N3 2 5.262u
.ends 4020_74438356047HT_4.7u
*******
.subckt 4020_74438356056_5.6u 1 2
Rp 1 2 8142.49710321
Cp 1 2 11.5659852048p
Rs 1 N3 0.068
L1 N3 2 5.17u
.ends 4020_74438356056_5.6u
*******
.subckt 4020_74438356056HT_5.6u 1 2
Rp 1 2 7849
Cp 1 2 15.226p
Rs 1 N3 0.07
L1 N3 2 5.699u
.ends 4020_74438356056HT_5.6u
*******
.subckt 4020_74438356150_15u 1 2
Rp 1 2 14200
Cp 1 2 9.62p
Rs 1 N3 0.2
L1 N3 2 14.1u
.ends 4020_74438356150_15u
*******
.subckt 4020_74438356220_22u 1 2
Rp 1 2 22800
Cp 1 2 10.4p
Rs 1 N3 0.25
L1 N3 2 20.5u
.ends 4020_74438356220_22u
*******
.subckt 4030_74438357010_1u 1 2
Rp 1 2 2195
Cp 1 2 7.039p
Rs 1 N3 0.0116
L1 N3 2 0.95u
.ends 4030_74438357010_1u
*******
.subckt 4030_74438357012_1.2u 1 2
Rp 1 2 2666
Cp 1 2 7.978933146p
Rs 1 N3 0.0134
L1 N3 2 1.22u
.ends 4030_74438357012_1.2u
*******
.subckt 4030_74438357015_1.5u 1 2
Rp 1 2 3039
Cp 1 2 7.847855157p
Rs 1 N3 0.0171
L1 N3 2 1.37u
.ends 4030_74438357015_1.5u
*******
.subckt 4030_74438357018_1.8u 1 2
Rp 1 2 3649
Cp 1 2 8.081p
Rs 1 N3 0.018
L1 N3 2 1.7u
.ends 4030_74438357018_1.8u
*******
.subckt 4030_74438357022_2.2u 1 2
Rp 1 2 4556
Cp 1 2 9.489572495p
Rs 1 N3 0.022
L1 N3 2 2.11u
.ends 4030_74438357022_2.2u
*******
.subckt 4030_74438357033_3.3u 1 2
Rp 1 2 4719
Cp 1 2 11.849p
Rs 1 N3 0.029
L1 N3 2 3.236u
.ends 4030_74438357033_3.3u
*******
.subckt 4030_74438357047_4.7u 1 2
Rp 1 2 8253
Cp 1 2 10.011598369p
Rs 1 N3 0.0399
L1 N3 2 4.22u
.ends 4030_74438357047_4.7u
*******
.subckt 4030_74438357056_5.6u 1 2
Rp 1 2 9277
Cp 1 2 11.153505232p
Rs 1 N3 0.0465
L1 N3 2 5.7u
.ends 4030_74438357056_5.6u
*******
.subckt 4030_74438357068_6.8u 1 2
Rp 1 2 11078
Cp 1 2 10p
Rs 1 N3 0.0694
L1 N3 2 6.45u
.ends 4030_74438357068_6.8u
*******
.subckt 4030_74438357082_8.2u 1 2
Rp 1 2 12230
Cp 1 2 11.388p
Rs 1 N3 0.081
L1 N3 2 7.76u
.ends 4030_74438357082_8.2u
*******
.subckt 4030_74438357100_10u 1 2
Rp 1 2 13721
Cp 1 2 11.841p
Rs 1 N3 0.1008
L1 N3 2 9.47u
.ends 4030_74438357100_10u
*******
.subckt 5020_744383660082_0.82u 1 2
Rp 1 2 1355
Cp 1 2 11.133p
Rs 1 N3 0.0083
L1 N3 2 0.796u
.ends 5020_744383660082_0.82u
*******
.subckt 5020_74438366010_1u 1 2
Rp 1 2 1863
Cp 1 2 11.252p
Rs 1 N3 0.0114
L1 N3 2 1.016u
.ends 5020_74438366010_1u
*******
.subckt 5020_74438366015_1.5u 1 2
Rp 1 2 2481
Cp 1 2 11.154p
Rs 1 N3 0.0185
L1 N3 2 1.618u
.ends 5020_74438366015_1.5u
*******
.subckt 5020_74438366022_2.2u 1 2
Rp 1 2 3190
Cp 1 2 12.557p
Rs 1 N3 0.0237
L1 N3 2 2.037u
.ends 5020_74438366022_2.2u
*******
.subckt 5020_74438366033_3.3u 1 2
Rp 1 2 4100
Cp 1 2 14.524p
Rs 1 N3 0.0334
L1 N3 2 3.202u
.ends 5020_74438366033_3.3u
*******
.subckt 5020_74438366047_4.7u 1 2
Rp 1 2 4923
Cp 1 2 14.429p
Rs 1 N3 0.0548
L1 N3 2 4.483u
.ends 5020_74438366047_4.7u
*******
.subckt 5030_74438367010_1u 1 2
Rp 1 2 1756
Cp 1 2 10.7p
Rs 1 N3 0.01
L1 N3 2 1.068u
.ends 5030_74438367010_1u
*******
.subckt 5030_74438367022_2.2u 1 2
Rp 1 2 3190
Cp 1 2 13.963p
Rs 1 N3 0.014
L1 N3 2 2.296u
.ends 5030_74438367022_2.2u
*******
.subckt 5030_74438367033_3.3u 1 2
Rp 1 2 4284
Cp 1 2 15.228p
Rs 1 N3 0.02
L1 N3 2 3.388u
.ends 5030_74438367033_3.3u
*******
.subckt 5030_74438367047_4.7u 1 2
Rp 1 2 5903
Cp 1 2 15.57p
Rs 1 N3 0.03
L1 N3 2 4.699u
.ends 5030_74438367047_4.7u
*******
.subckt 5030_74438367068_6.8u 1 2
Rp 1 2 7062
Cp 1 2 15.983p
Rs 1 N3 0.042
L1 N3 2 6.597u
.ends 5030_74438367068_6.8u
*******
.subckt 5030_74438367082_8.2u 1 2
Rp 1 2 6565
Cp 1 2 16.689p
Rs 1 N3 0.05
L1 N3 2 8.973u
.ends 5030_74438367082_8.2u
*******
.subckt 5030_74438367100_10u 1 2
Rp 1 2 7290
Cp 1 2 15.66p
Rs 1 N3 0.061
L1 N3 2 9.563u
.ends 5030_74438367100_10u
*******
